US04725610
A stirred mixture of 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidene}-2,4-thiazolidinedione (500 mg), 10% Pd-C (50% wet, 1.0 g) and acetic acid (50 ml) was hydrogenated at 70° C. and at atmospheric pressure for 3 hours. Methanol (20 ml) and chloroform (20 ml) were added to the mixture and the whole was heated at 60° C. for 5 minutes. The mixture was filtered hot and the filtrate was concentrated in vacuo. A solution of the residue in ethyl acetate was successively washed with saturated aqueous sodium bicarbonate solution and water, and dried over magnesium sulfate. The solvent was removed and the residue was recrystallized from ethanol to yield 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione (the same compound as that obtained in Example 12) as crystals (415 mg, 82.7%). m.p. 113°-114° C.

reactant | 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidene}-2,4-thiazolidinedione | 500 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C22H18N2O4S
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | Methanol | 20 ml | CO | CH4O
catalyst | Pd-C | 1.0 g | [Pd] | Pd
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl}-2,4-thiazolidinedione | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C22H20N2O4S
